US06660870B1
1-(2-Aminopropyl)-2-(4-methylbenzamido)benzimidazole
To a solution of 1-(2-tert-butoxyaminopropyl)-2-aminobenzimidazole hydrobromide (1.00 g, 2.70 mmol) and triethylamine (1.9 mL, 3.79 mmol) in CH2Cl2 (50 mL) was added 4-methylbenzoyl chloride (0.46 g, 29.73 mmol) at 0° C. This mixture was stirred at 0° C. for 1 h and at room temperature overnight. The volatiles were evaporated and the residue was purified by flash chromatography using ethyl acetate-hexane (1:1). The fractions collected were concentrated in vacuo and the residue was dissolved in trifluoroacetic acid (5 ml) and stirred overnight. The trifluoroacetic acid was evaporated and the residue was dissolved in ethyl acetate and washed with a saturated solution of bicarbonate. Ethyl acetate was evaporated and the residue was purified by flash chromatography using CH2Cl2-MeOH (9.5: 0.5). The oil recovered after evaporation of solvent was transformed to the hydrochloride salt. MS 308 (M+1). 1HNMR (DMSO): δ 1.3(d, 3H), 2.37 (s, CH3), 3.80 (m, 1H), 4.45 (m, 2H), 7.26 (m, 4H), 7.55 and 7.62 (2d, 2H), 8.15 (d, 2H), 11.61 (bs, NH).

reactant | 1-(2-tert-butoxyaminopropyl)-2-aminobenzimidazole hydrobromide | 2.70 mmol, 1.00 g | Br.C(C)(C)(C)ONC(CN1C(=NC2=C1C=CC=C2)N)C
reactant | triethylamine | 3.79 mmol, 1.9 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methylbenzoyl chloride | 29.73 mmol, 0.46 g | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Aminopropyl)-2-(4-methylbenzamido)benzimidazole | NC(CN1C(=NC2=C1C=CC=C2)NC(C2=CC=C(C=C2)C)=O)C | C18H20N4O
